US06762321B2
1.90 g (4.41 mmol) of N-[2-(4-benzyloxy-3-methoxyphenyl)-1-methylethyl]-3-hydroxy-2-(4-methylphenyl)acrylamide, 0.99 g (17.6 mmol) of 10% aqueous potassium hydroxide solution, 716 mg (2.20 mmol) of tetrabutylammonium bromide and 20 ml of ethylene glycol dimethyl ether were mixed and chlorodifluoromethane gas was blown thereto at room temperature to 50° C. After a sample was taken out from the reaction mixture and the disappearance of the starting material was confirmed by thin layer chromatograph analysis, the reaction mixture was cooled. Then, 5% hydrochrolic acid was added to the reaction mixture, which was followed by extracted with ethyl acetate, washed with 5% hydrochrolic acid, saturated brine subsequently, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was washed with hexane to give 1.80 g of N-[2-(4-benzyloxy-3-methoxyphenyl)-1-methylethyl]-3-difluoromethoxy-2-(4-methylphenyl)acrylamide.

reactant | N-[2-(4-benzyloxy-3-methoxyphenyl)-1-methylethyl]-3-hydroxy-2-(4-methylphenyl)acrylamide | 4.41 mmol, 1.90 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)CC(C)NC(C(=CO)C1=CC=C(C=C1)C)=O)OC | C27H29NO4
reactant | potassium hydroxide | 17.6 mmol, 0.99 g | [OH-].[K+]
reactant | chlorodifluoromethane | ClC(F)F | CHClF2
catalyst | tetrabutylammonium bromide | 2.20 mmol, 716 mg | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | ethylene glycol dimethyl ether | 20 ml | COCCOC | C4H10O2
product | N-[2-(4-benzyloxy-3-methoxyphenyl)-1-methylethyl]-3-difluoromethoxy-2-(4-methylphenyl)acrylamide | 1.80 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)CC(C)NC(C(=COC(F)F)C1=CC=C(C=C1)C)=O)OC | C28H29F2NO4
